US05043142
To a solution of 951 mg (23.8 mmol) of sodium hydride contained at 60% in mineral oil in dry dimethylformamide (50 ml) was added 2.64 g (14.1mmol) of 4-bromobenzyl alcohol in an atmosphere of argon, and the mixture was allowed to react at 40°-50° C. for 30 min. Then, 1.62 g (6.14 mmol) of α,α'-dibromo-p-xylene was added, and the mixture was reacted at room temperature for 19 hours. To the reaction mixture at 0° C. was added a saturated aqueous solution of ammonium chloride followed by extraction with ethyl acetate. The organic layer was washed with water and then concentrated under reduced pressure. The residue thus obtained was subjected to silica gel column chromatography for separation and purification. Elution with dichloromethane-hexane (4:1) yielded 1.83 g (3.84 mmol) of 1,4-bis[3-(4-bromophenyl)-2-oxapropyl]benzene.

reactant | sodium hydride | 23.8 mmol, 951 mg | [H-].[Na+]
reactant | 4-bromobenzyl alcohol | 14.1mmol, 2.64 g | BrC1=CC=C(CO)C=C1 | C7H7BrO
reactant | α,α'-dibromo-p-xylene | 6.14 mmol, 1.62 g | BrCC1=CC=C(C=C1)CBr | C8H8Br2
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | 1,4-bis[3-(4-bromophenyl)-2-oxapropyl]benzene | 3.84 mmol, 1.83 g | BrC1=CC=C(C=C1)COCC1=CC=C(C=C1)COCC1=CC=C(C=C1)Br | C22H20Br2O2
